Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
PCP: ___ (___)
. 
CC: neutropenia
 
Major ___ or Invasive Procedure:
None
 
History of Present Illness:
 ___ woman h/o Hep C, cirrhosis (reported), IVDU (heroine) 
admitted with neutropenia, chest/back pain.   Ms. ___ 
reportedly at baseline, functional and independent, no real 
baseline chest/back pain, good PO intake.  Yesterday, endorsed 
development of symmetric, bilateral chest and back pain 
localized to subcostal region started after eating lunch 
yesterday. Described single episode of vomiting and nausea 
worsened with standing.  Denies any SOB, pleuritic pain.  Had 
decreased PO intake past 1.5 days.  Noted subjective fever 1 
week ago.  
    Presented to OSH, where CXR was performed, along with labs, 
which were notable for WBC 1.6 ANC 0.9 plts 34k, Cr 0.85, 
negative CRP.  She was sent here for further eval of 
neutropenia. 
    Here in ED, vital signs stable.  CTA chest without any lung 
abnl or evidence of PE.  Given acetaminophen and nicotine patch. 
 Admitted for workup of neutropenia. 

ROS: per HPI, denies  night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, shortness of breath, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.  A 10 pt review of sxs was otherwise negative.
 
Past Medical History:
# IVDU
# Hep C
# Bipolar disorder
# h/o SDH ___ (s/p assault)
# skin grafts secondary to burns
 
Social History:
___
Family History:
Non-contributory.  Difficult to obtain given pt not close to 
parents or immediate family (other than twin sister)

 
Physical Exam:
Vital Signs: 98.1  108 / 69 58 18 96% RA 
glucose: 
. 
GEN: NAD, disheveled appearing woman, sitting in chair, in mild 
distress in pain
EYES: PERRL, EOMI, conjunctiva clear, anicteric
ENT: moist mucous membranes, no exudates 
NECK: supple 
CV: RRR s1s2 nl, no m/r/g
PULM: CTA, no r/r/w, no CVA tenderness 
GI: normal BS, NT/ND, + splenomegaly - tip felt below R CM 
EXT: warm, no c/c, trace PE bilaterally at ankle
SKIN: no rashes 
NEURO: alert, oriented x 3, answers ? appropriately, follows 
commands, non focal
PSYCH: appropriate
ACCESS: PIV
FOLEY: absent

 
Pertinent Results:
# Chest CTA (___): 1. No evidence of acute pulmonary embolism. 

2. No osseous lesion identified.  3. Possible lymphadenopathy in 
the porta hepatic region, but not completely imaged or fully 
evaluated on this exam. 

# RUQ U/S (___): 1. Patent portal and hepatic veins. 
2. Massive splenomegaly.  Trace ascites. 

___ 05:08AM BLOOD WBC-1.7*# RBC-4.11 Hgb-13.0 Hct-37.8 
MCV-92 MCH-31.6 MCHC-34.4 RDW-15.0 RDWSD-50.7* Plt Ct-35*#
___ 05:08AM BLOOD Glucose-97 UreaN-14 Creat-0.8 Na-137 
K-4.2 Cl-102 HCO3-26 AnGap-13
___ 05:08AM BLOOD ALT-54* AST-78* AlkPhos-104 TotBili-1.0
___ 05:08AM BLOOD Albumin-2.6*
___ 05:05PM BLOOD HBsAg-Negative HBsAb-Negative
___ 05:05PM BLOOD HIV Ab-Negative
___ 05:05PM BLOOD HCV VL-PND
 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ woman h/o Hep C, cirrhosis (reported), 
IVDU (heroine) admitted with neutropenia, chest/back pain.

# Neutropenia: Ms. ___ was admitted with neutropenia.  
Throughout this hospitalization, there was no evidence of fever 
or active infection.  She did not meet criteria for severe 
neutropenia and thus did not warrant neutropenic 
precaution/diet.
     She refused to obtain blood draws from phlebotomist (due to 
difficult stick from past IV drug use) and thus the ___ could 
not be monitored closely.  However, the etiology of the 
neutropenia was attributed to cirrhosis and associated 
splenomegaly (with sequestration), possibly compounded by poor 
PO intake. RUQ U/S Duplex here did not show any evidence of PV 
thrombosis.  HIV was negative.
   She was treated with daily MVI, folate.  She understands that 
management of her cirrhosis as outpt will be important. 

# Chest/back pain: no clear signs of physiological cause of 
pain.   This was potentially caused by discomfort from 
splenomegaly.  CTA chest was negative, no focal tenderness to 
suggest fracture, CRP normal at OSH - makes infection unlikely, 
trop <0.01.   There was concern for narcotic seeking behavior - 
given active heroine use and repeated emphasis on IV pain 
medications, however after repeated assertion that opiates would 
not be given during the ___ day of admission, she did not bring 
up use of opiates later during this hospitalization.
   She received. tramadol PRN.  Tizanidine PRN for component of 
muscle spasm
 
# Hep C cirrhosis (untreated): no active Etoh use.  Signs of 
cirrhosis with splenomegaly, elevated INR (1.4) and 
hypoalbuminemia.  No signs of encephalopathy, GI bleed.  Hep C 
viral RNA was sent but was pending on day of discharge.
   She understands the importance of hepatology f/u as outpt and 
also the need to remain clean and off IV heroine before getting 
Hep C treatment

# Tob abuse: Nicotine patch

# OTHER ISSUES AS OUTLINED. 
. 
#FEN:   [] IVF   [X] Oral   [] NPO   [] Tube Feeds   [] 
Parenteral
#DVT PROPHYLAXIS: will hold off heparin given low plts
#LINES/DRAINS:   [X] Peripheral   [] PICC   [] CVL   [] Foley
#PRECAUTIONS: [X] Fall   [] Aspiration   [] 
MRSA/VRE/CDiff/ESBL/Droplet /Neutropenic
#COMMUNICATION: pt
#CONSULTS: none for now.  benefit from hepatology as outpt
#CODE STATUS: [X]full code []DNR/DNI

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 100 mg PO QHS 

 
Discharge Medications:
1.  Tizanidine 4 mg PO TID:PRN Spasm pain 
RX *tizanidine 4 mg 1 tablet(s) by mouth three times a day Disp 
#*20 Tablet Refills:*0 
2.  TraZODone 100 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Neutropenia Mild (from splenic sequestration)
Cirrhosis, Hepatitis C
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,
   It was a pleasure looking after you.  As you know, you were 
admitted with chest/back pain.  Extensive evaluation showed no 
concerning causes (no heart attack, no lung clots, no pneumonia 
or fracture, or signs of infection).  Chest CT scan here did not 
identify any significant abnormalities other than an enlarged 
spleen.  This large spleen is likely caused by your liver 
cirrhosis (from Hepatitis C) and can cause the white count (in 
the blood) to be low as well.
    You also obtained a liver ultrasound - which showed that 
fortunately, there was no clot in the portal vein system (which 
can possibly lead to even greater increased size in the spleen). 
 
     While here, no opiate medications were needed.  HIV and 
Hepatitis B tests were negative.  A viral load for Hepatitis C 
was sent but still pending at the time of discharge.
    It is important to set up a primary care doctor and to 
obtain a follow up with a hepatologist (liver expert) to ensure 
your Hepatitis C and cirrhosis is appropriately managed. 
    We wish you best of luck on staying clean and getting back 
on track to good health.

Your ___ Team
    
  
    
 
Followup Instructions:
___